US05486525
Step 3: 6-(4-Fluorophenyl)indole-2-carboxaldehyde.
The desired compound was prepared by Vilsmeier formylation of 6-(4-fluorophenyl)indole using DMF and oxalyl chloride.

reactant | 6-(4-fluorophenyl)indole | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(4-Fluorophenyl)indole-2-carboxaldehyde | FC1=CC=C(C=C1)C1=CC=C2C=C(NC2=C1)C=O | C15H10FNO
